US03969463
Using the procedure of Example 25, 2,7-dimethyltetrahydroquinoline and diethyl ethoxymethylenemalonate are reacted to give solid ethyl 6,7-dihydro-5,10-dimethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate, m.p. 106-108° C.

reactant | 2,7-dimethyltetrahydroquinoline | CC1NC2=CC(=CC=C2CC1)C | C11H15N
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | ethyl 6,7-dihydro-5,10-dimethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | CC1CCC2=C3C(C(C(=CN13)C(=O)OCC)=O)=C(C=C2)C | C17H19NO3
